US07371746B2
In 3 ml of tetrahydrofuran were added 376 mg of 5-chloro-3-methylthio-1,2,4-thiadiazole, 230 mg of 3-trifluoromethylpiperidine and 1.52 g of triethylamine at room temperature. The mixture was stirred for 1.5 hour under reflux condition, and left as it for 14 hours at room temperature. The reaction mixture was extracted with ethyl acetate after the addition of water. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 398 mg of 3-methylthio-5-(3-trifluoromethylpiperidino)-1,2,4-thiadiazole.

reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 376 mg | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | 3-trifluoromethylpiperidine | 230 mg | FC(C1CNCCC1)(F)F | C6H10F3N
reactant | triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-methylthio-5-(3-trifluoromethylpiperidino)-1,2,4-thiadiazole | 398 mg | CSC1=NSC(=N1)N1CC(CCC1)C(F)(F)F | C9H12F3N3S2
